US06177452B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g), an aqueous solution of 30% methylamine (4.0 ml) and 2-propanol (20 ml) was stirred in a sealed tube at 100° C. for 4 hours. The reaction mixture was concentrated, and water was added to the resulting residue. The pH was then adjusted 3 with 2 N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-methylamino-5-oxazolepropionic acid (1.21 g, 86%). This was recrystallized from ethanol to give colorless prisms. mp 217-218° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | methylamine | 4.0 ml | CN | CH5N
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 4-(4-chlorophenyl)-2-methylamino-5-oxazolepropionic acid | 1.21 g, 86% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)NC | C13H13ClN2O3
